US08440652B2
A mixture of 2-amino-5-bromopyridine (3.58 g, 20.7 mmol), N-cyclopropyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide (5.00 g, 20.7 mmol), sodium carbonate (3.29 g, 31.05 mmol), and PdCl2(PPh3)2 (0.436 g, 0.62 mmol) in 3:1 acetonitrile:water was microwave heated at 80° C. for 20 min, and then at 100° C. for 15 min. The reaction was then heated in an oil bath at 80° C. for 16 h. The reaction was cooled to room temperature and filtered. The solid was washed with methanol (10 mL), and the combined filtrates were concentrated. The crude material was purified by flash chromatography over silica gel (0-5% MeOH/DCM) to give 4-(6-aminopyridin-3-yl)-N-cyclopropylbenzenesulfonamide (2.08 g, 35% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.27 (d, J=2.01 Hz, 1H), 7.88-7.95 (m, 2H), 7.85 (d, J=2.51 Hz, 1H), 7.81-7.84 (m, 1H), 7.71-7.79 (m, 2H), 6.45-6.88 (m, 1H), 1.89-2.41 (m, 1H), 0.13-0.82 (m, 4H); MS (EI) m/z: 290 [M+H]+. HPLC (Sunfire C18 4.6 mm×50 mm, 10-90% MeCN:10 mM aq. NH4OAc, 2 min gradient) tR=1.34 min, 88% integrated area.

reactant | 2-amino-5-bromopyridine | 20.7 mmol, 3.58 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | N-cyclopropyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide | 20.7 mmol, 5.00 g | C1(CC1)NS(=O)(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H22BNO4S
reactant | sodium carbonate | 31.05 mmol, 3.29 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
catalyst | PdCl2(PPh3)2 | 0.62 mmol, 0.436 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
product | 4-(6-aminopyridin-3-yl)-N-cyclopropylbenzenesulfonamide | 2.08 g, 35% yield | NC1=CC=C(C=N1)C1=CC=C(C=C1)S(=O)(=O)NC1CC1 | C14H15N3O2S
